US08669380B2
Acetic acid 2-{4-[2-chloro-5-((1S,2S,3S,4R,5S)-2,3,4-trihydroxy-1-hydroxymethyl-6,8-dioxa-bicyclo[3.2.1]oct-5-yl)-benzyl]-phenoxy}-ethyl ester
To a solution of (1S,2S,3S,4R,5S)-5-[4-chloro-3-(4-hydroxy-benzyl)-phenyl]-1-hydroxymethyl-6,8-dioxa-bicyclo[3.2.1]octane-2,3,4-triol (38 mg, 0.093 mmol) in acetonitrile (0.9 mL) was added potassium carbonate (40 mg, 0.28 mmol) followed by the addition of acetic acid 2-bromo-ethyl ester (0.012 mL, 0.112 mmol) and the resulting mixture was heated to 50 degrees Celsius for 72 hours. The reaction showed some product formation but the majority of starting material remained. An additional 2 equivalents of acetic acid 2-bromo-ethyl ester was added and the mixture was heated at 50 degrees Celsius for an additional 24 hours. Water (20 mL) and ethyl acetate were added, the two phases separated and the aqueous phase was extracted 3 times with ethyl acetate (20 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by flash chromatography over silica gel using the ISCO automated chromatography unit (4 g silica gel column) and eluting with a gradient of 0 to 30% methanol in dichloromethane. 10 mg (22% yield) of a ˜2:1 mixture of the desired product contaminated with some unidentified compound was obtained. LCMS 539 M+HCOO−, negative mode).

reactant | (1S,2S,3S,4R,5S)-5-[4-chloro-3-(4-hydroxy-benzyl)-phenyl]-1-hydroxymethyl-6,8-dioxa-bicyclo[3.2.1]octane-2,3,4-triol | 0.093 mmol, 38 mg | ClC1=C(C=C(C=C1)[C@]12[C@@H]([C@H]([C@@H]([C@](CO1)(O2)CO)O)O)O)CC2=CC=C(C=C2)O | C20H21ClO7
reactant | potassium carbonate | 0.28 mmol, 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid 2-bromo-ethyl ester | 0.112 mmol, 0.012 mL | BrCCOC(C)=O | C4H7BrO2
reactant | acetic acid 2-bromo-ethyl ester | 2 equivalents | BrCCOC(C)=O | C4H7BrO2
reactant | Water | 20 mL | O | H2O
solvent | acetonitrile | 0.9 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Acetic acid 2-{4-[2-chloro-5-((1S,2S,3S,4R,5S)-2,3,4-trihydroxy-1-hydroxymethyl-6,8-dioxa-bicyclo[3.2.1]oct-5-yl)-benzyl]-phenoxy}-ethyl ester | 22% yield | ClC1=C(CC2=CC=C(OCCOC(C)=O)C=C2)C=C(C=C1)[C@]12[C@@H]([C@H]([C@@H]([C@](CO1)(O2)CO)O)O)O | C24H27ClO9
